US06599917B1
c) 2-Benzyl-3-iodo-6-(3,3-ethylenedioxypyrrolidine-1-yl)pyridine
A mixture of 6.6 g of 2-benzyl-6-(3,3-ethylenedioxypyrrolidine-1-yl)pyridine and 60 ml of N,N-dimethylformamide was stirred in an ice bath. Into the mixture were added dropwise 5.5 g of N-iodosuccinimide, followed by stirring at room temperature overnight as it was. 10 ml of an aqueous solution containing one mol of sodium thiosulfate was added thereto, and the mixture was partitioned between ethyl acetate and water. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography using 5-10% ethyl acetate/hexane, to give 6.7 g of the target compound.

reactant | 2-benzyl-6-(3,3-ethylenedioxypyrrolidine-1-yl)pyridine | 6.6 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1CC2(CC1)OCCO2 | C18H20N2O2
reactant | N-iodosuccinimide | 5.5 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | one mol | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-Benzyl-3-iodo-6-(3,3-ethylenedioxypyrrolidine-1-yl)pyridine | 6.7 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1CC2(CC1)OCCO2 | C18H19IN2O2
